US05821246
Using an analogous procedure to that described in Example 43, 6-amino-4-[2-fluoro-4-(2-pyridylmethoxy)anilino]quinazoline was reacted with 2-methoxyacetaldehyde dimethyl acetal to give 4-[2-fluoro-4-(2-pyridylmethoxy)anilino]-6-(2-methoxyethylamino)quinazoline in 52% yield;

reactant | 6-amino-4-[2-fluoro-4-(2-pyridylmethoxy)anilino]quinazoline | NC=1C=C2C(=NC=NC2=CC1)NC1=C(C=C(C=C1)OCC1=NC=CC=C1)F | C20H16FN5O
reactant | 2-methoxyacetaldehyde dimethyl acetal | COC(COC)OC | C5H12O3
product | 4-[2-fluoro-4-(2-pyridylmethoxy)anilino]-6-(2-methoxyethylamino)quinazoline | 52% yield | FC1=C(NC2=NC=NC3=CC=C(C=C23)NCCOC)C=CC(=C1)OCC1=NC=CC=C1 | C23H22FN5O2
